US09335316B2
Preparation of Bisphenol A bis(2-methylbenzyl) ether
Under an inert atmosphere, 5.23 g Bisphenol A (BPA) (22.9 mmol) and 2.83 g potassium hydroxide (50.4 mmol) were dissolved in 50 mL dimethylacetamide. Stirring was started at 500 rpm and the contents were warmed to 70° C. After 30 minutes, 7.09 g 2-methylbenzyl chloride (50.4 mmol) dissolved in 50 mL dimethylacetamide was added to the reaction mixture. The mixture was then heated at 100° C. for 4 h until no 2-methylbenzyl chloride was noted in the GPC trace. During the course of the reaction, a white precipitate had formed. The reaction mixture was cooled to room temperature and then poured into a 1 L separatory funnel containing 200 mL deionized water. The aqueous layer immediately became opaque. The reaction flask was washed with 50 mL deionized water and this wash was added along with 150 mL toluene to the separatory funnel. The separatory funnel was shaken and the bilayer allowed to settle. The lower, aqueous layer appeared opaque while the upper, organic layer was clear and colorless. The organic layer was separated and the aqueous layer was washed 3 additional times with 100 mL toluene. The combined organic fractions were dried over 20 g magnesium sulfate and filtered into a 1 L round bottom flask. The solvent was removed from the filtered toluene solution on a rotary evaporator initially at room temperature then at 70° C. Following solvent removal, a viscous oil remained in the round bottom flask. This crude product was recrystallized at 0° C. from an acetone solution. The crystalline white solid that had formed was filtered on a 7.0 cm Buchner funnel using Whatman 540 filter paper. The crystals were pulverized into a powder and washed with cold acetone. The white powder was transferred to a 75° C. vacuum oven and dried for 24 h. For Bisphenol A bis(2-methylbenzyl) ether: 52% yield (5.2 g, 12 mmol); white powder; mp 117° C. 1H NMR (500.1 MHz, CD2Cl2, ppm, J=Hz): 7.40 (d, 7.2, 2H, Ph), 7.23 (m, 6H, Ph), 7.17 (m, 4H, Ph), 6.90 (m, 4H, Ph), 5.02 (s, 4H, -PhCH2O—), 2.37 (s, 6H, -PhCH3), 1.65 (s, 6H, —C(CH3)2).

reactant | Bisphenol A | 22.9 mmol, 5.23 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | potassium hydroxide | 50.4 mmol, 2.83 g | [OH-].[K+]
reactant | 2-methylbenzyl chloride | 50.4 mmol, 7.09 g | CC1=C(CCl)C=CC=C1 | C8H9Cl
reactant | water | O | H2O
solvent | dimethylacetamide | 50 mL | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 50 mL | CC(=O)N(C)C | C4H9NO
product | Bisphenol A bis(2-methylbenzyl) ether | 52% yield | CC1=C(COC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OCC2=C(C=CC=C2)C)C=CC=C1 | C31H32O2
